US05654477
(R)-1-Amino-1-phenyl-but-3-yne hydrochloride salt
Dissolve (RS)-1-amino-1-phenyl-but-3-yne [Zh. Org. Khim. 18(4), 980-983 (1982) A. Mostamandi, L. A. Remizova, A. L. Pavienkova, I. A. Favorskaya] (20.0 g, 138 mmol) and (-)-5,5-dimethyl-2-hydroxy-4-(2-methoxyphenyl)-1,3,2-dioxaphosphorinane 2-oxide (35.0 g, 129 mmol) in refluxing ethanol (300 mL). Cool the solution to ambient temperature and collect the precipitate by filtration. Rinse the precipitate with a small amount of isopropanol/ethanol (1/1). Two recrystallizations from ethanol gives (R)-1-amino-1-phenyl-but-3-yne 5,5-dimethyl-2-hydroxy-4-(2-methoxyphenyl)-1,3,2-dioxaphosphorinane 2-oxide salt (21 g). Combine (R)-1-amino-1-phenyl-but-3-yne 5,5-dimethyl-2-hydroxy-4-(2-methoxyphenyl)-1,3,2-dioxaphosphorinane 2-oxide salt (21 g, 50.4 mmol) with a mixture of aqueous 1M potassium hydroxide solution (100 mL) and toluene (50 mL) and stir for 0.75 hour. Separate the layers and extract the aqueous layer with toluene (50 mL), combine the organic layers, dry over (Na2SO4), and filter to obtain a solution. Pass hydrogen chloride gas through the solution until it is saturated and then remove the precipitate by filtration and rinse with toluene. Recrystallize from butanone (120 mL) to give 7.0 g the title compound. Specific rotation [α]2D0 =11.0° (c=0.500, MeOH).

reactant | (R)-1-amino-1-phenyl-but-3-yne 5,5-dimethyl-2-hydroxy-4-(2-methoxyphenyl)-1,3,2-dioxaphosphorinane 2-oxide | 50.4 mmol, 21 g | CC1(C(OP(OC1)(O)=O)C1=C(C=CC=C1)OC)C.N[C@H](CC#C)C1=CC=CC=C1
reactant | potassium hydroxide | 1M, 100 mL | [OH-].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-1-Amino-1-phenyl-but-3-yne hydrochloride salt | 7.0 g | Cl.N[C@H](CC#C)C1=CC=CC=C1 | InChI=1S/C10H11N.ClH/c1-2-6-10(11)9-7-4-3-5-8-9;/h1,3-5,7-8,10H,6,11H2;1H/t10-;/m1./s1
